US07678818B2
a) Preparation of (4-chloro-3-trifluoromethyl-phenyl)-acetonitrile
3.94 g of 4-bromomethyl-1-chloro-2-trifluoromethyl-benzene (14.4 mmol) and 1.06 g sodium cyanide (21.6 mmol) were suspended in 12 ml DMSO under argon and stirring and heated to 50° C. for 1 h. The reaction mixture was then poured on water/ice and extracted four times with DCM. The combined organic phases were washed with water, dried with magnesium sulfate, filtered and concentrated in vacuo, leading to 3.188 g of (4-chloro-3-trifluoromethyl-phenyl)-acetonitrile as a dark red oil, which was directly used in the next step.

reactant | 4-bromomethyl-1-chloro-2-trifluoromethyl-benzene | 14.4 mmol, 3.94 g | BrCC1=CC(=C(C=C1)Cl)C(F)(F)F | C8H5BrClF3
reactant | sodium cyanide | 21.6 mmol, 1.06 g | [C-]#N.[Na+]
solvent | DMSO | 12 ml | CS(=O)C | C2H6OS
product | (4-chloro-3-trifluoromethyl-phenyl)-acetonitrile | ClC1=C(C=C(C=C1)CC#N)C(F)(F)F | C9H5ClF3N
